US07144881B2
Step B: {1-[3-(3-Dimethylamino-pyrrolidin-1-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester
A mixture of (S )[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (6 g), (3R)-3-(dimethylamino)-pyrrolidine (4.56 g), Pd2(dba)3 (1.83 g), di-t-butyl-biphenylphosphine (600 mg), K3PO4 (8.48 g) in DME (40 mL) was stirred at reflux for 16 h. The reaction mixture was cooled down to room temperature, diluted with methylene chloride, and filtered. The filtrated was evaporated in vacuo, and the crude product was purified by Flash Chromatography using Biotage eluting with 20% MeOH in ethyl acetate to give the title compound (1.8 g) as an oil.

reactant | (S )[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 6 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)Br)=O | C13H18BrNO2
reactant | (3R)-3-(dimethylamino)-pyrrolidine | 4.56 g | CN([C@H]1CNCC1)C | C6H14N2
reactant | K3PO4 | 8.48 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 40 mL | COCCOC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 1.83 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | {1-[3-(3-Dimethylamino-pyrrolidin-1-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(NC(C)C1=CC(=CC=C1)N1CC(CC1)N(C)C)=O | C19H31N3O2
